US06831175B2
6-Bromo-indan-1,2-dione 1-oxime
A solution of 5-bromo-1-indanone (1.8 g, 8.5 mmol) in ethanol (150 ml) was cooled to 0° C., treated with t-butylnitrite (2.1 ml), stirred at room temperature for 2 hours, filtrated and washed the desired product with ether. The yield is 76%. MS (DCI/NH3) m/e 242 (M+1)+.

reactant | 5-bromo-1-indanone | 8.5 mmol, 1.8 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | t-butylnitrite | 2.1 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 6-Bromo-indan-1,2-dione 1-oxime | yield is 76% | BrC1=CC=C2CC(C(C2=C1)=NO)=O | C9H6BrNO2
